US04772705
To an ice-cooled stirred suspension of 25. g (0.66 mol) of lithium aluminum hydride in 2.6 liters of anhydrous ether was added in portions over 0.5 hour 30 g (0.17 mol) of 3-phenyl-2-piperazinone. The resulting mixture was heated at reflux for 20 hours and then cooled to 0° C. Isolation of the product by standard methods gave 23 g (83%) of 2-phenylpiperazine as an off-white solid (mp. 83°-85° C.).

reactant | lithium aluminum hydride | 0.66 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-phenyl-2-piperazinone | 0.17 mol, 30 g | C1(=CC=CC=C1)C1C(NCCN1)=O | C10H12N2O
solvent | ether | 2.6 liters | CCOCC | C4H10O
product | 2-phenylpiperazine | 23 g, 83% | C1(=CC=CC=C1)C1NCCNC1 | C10H14N2
